US08975265B2
To a mixture of {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (534 mg, 1.03 mmol), methyl acrylate (0.19 mL, 2.06 mmol, 2.0 equiv), triethylamine (0.16 mL, 1.17 mmol, 1.1 equiv), palladium(II) acetate (17 mg, 0.08 mmol, 7 mol %) and tri (2-tolyl)phosphine (53 mg, 0.18 mmol, 17 mol %) in acetonitrile (7 mL) was heated at 150° C. for 2 h. in a microwave apparatus. The reaction mixture was mixed with water (10 mL), a saturated aqueous NH4Cl solution (10 mL) and CH2Cl2 (25 mL) with vigorous stirring at room temperature for 30 min. The resulting organic phase was washed with a saturated aqueous NaCl solution, dried (Na2SO4 anh), and concentrated under reduced pressure to give (E)-3-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-acrylic acid methyl ester (452 mg, 75%):

reactant | {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 1.03 mmol, 534 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | methyl acrylate | 2.06 mmol, 0.19 mL, 2.0 equiv | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 1.17 mmol, 0.16 mL, 1.1 equiv | C(C)N(CC)CC | C6H15N
reactant | tri (2-tolyl)phosphine | 0.18 mmol, 53 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.08 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | (E)-3-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-acrylic acid methyl ester | 452 mg, 75% | COC(\C=C\C1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2)=O | C32H33N3O4
